US06762191B2
tert-Butyl 8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate (5.360 g, 12.750 mmol) was dissolved in 160 mL CH3COOH. N-Bromosuccinimide (4.539 g, 25.500 mmol) was added. The reaction mixture was stirred under N2 at rt for 27 h. The reaction mixture was poured into a mixture of 300 g ice and 100 mL water. The aqueous mixture was extracted with EtOAc (3×). The combined organic layers were washed with 5M NaOH (2×250 mL), 25% KOH (2×200 mL) and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was chromatographed (SiO2, 15% EtOAc:hexane), and tert-butyl 6-bromo-8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate was obtained in 82% yield (5.250 g, 10.516 mmol). MS (ESI+) for C22H22BrCl2NO3 m/z 499.8 (M+H)+.

reactant | tert-Butyl 8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate | 12.750 mmol, 5.360 g | ClC1=C(C=CC(=C1)Cl)C=1C=CC2=C(C1)C1CN(CCC1O2)C(=O)OC(C)(C)C | C22H23Cl2NO3
reactant | N-Bromosuccinimide | 25.500 mmol, 4.539 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 100 mL | O | H2O
solvent | CH3COOH | 160 mL | CC(=O)O | C2H4O2
product | tert-butyl 6-bromo-8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate | 82% yield | BrC1=CC(=CC2=C1OC1C2CN(CC1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C22H22BrCl2NO3
